US05853623
L-Phenylalanine N-methylamide
DCC (3.02 g) was added to a solution of L-phenylalanine-N-benzylcarbamate (4.00 g) and N-hydroxysuccinimide (1.69 g) in dry THF (35 ml) at 0° C. The mixture was stirred at that temperature for 16 h and filtered through Celite. To the filtrate was added aqueous methylamine (40% aq., 5 ml) and the mixture was stirred at RT for 24 h. The reaction mixture was concentrated in vacuo and the crude material (6.01 g) was dissolved in ethanol (250 ml). A suspension of 10% palladium on carbon in H2O (ca 2 ml) was added to the ethanol solution in a bomb. The mixture was stirred in the presence of hydrogen at 724 kPa (105 psi) for 18 h. The solution was filtered through Celite and the filtrate was evaporated in vacuo. The residue was partioned between 1N hydrochloric acid (110 ml) and dichloromethane (50 ml). The layers were separated and the aqueous layer was extracted with dichloromethane (50 ml). The aqueous layer was basified with 3N sodium hydroxide solution to pH ~14 and extracted with dichloromethane (3×50 ml). The latter extracts were combined, dried (Na2SO4), filtered and evaporated, to give the title compound as a colourless viscous oil which solidified under high vacuum (2.24 g).

reactant | DCC | 3.02 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | L-phenylalanine N-benzylcarbamate | 4.00 g | N[C@@H](CC1=CC=CC=C1)C(=O)O.C(C1=CC=CC=C1)NC([O-])=O
reactant | N-hydroxysuccinimide | 1.69 g | ON1C(CCC1=O)=O | C4H5NO3
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | L-Phenylalanine N-methylamide | CNC([C@@H](N)CC1=CC=CC=C1)=O | C10H14N2O
